US08980888B2
<Step 3> Synthesis of 2-bromo-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylic acid
A 1 N sodium hydroxide aqueous solution (150 ml) was added to a methanol (150 ml) suspension of the methyl 2-bromo-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylate (10 g) obtained in (Example 3.15) <Step 2>, and the obtained mixture was then stirred for 30 minutes. Thereafter, about half of the solvent was distilled away under reduced pressure, and the residue was then adjusted to pH 4 by addition of 3 N hydrochloric acid (50 ml). The precipitated solid was collected by filtration, and was then successively washed with water (50 ml) and methyl tert-butyl ether (20 ml). The obtained solid was, subjected to azeotropy with toluene to obtain the title compound (9.0 g) in the form of a white solid.

reactant | sodium hydroxide | 1 N, 150 ml | [OH-].[Na+]
reactant | methyl 2-bromo-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylate | 10 g | BrC1=NN2C(C=C(C=C2)C(=O)OC)=N1 | C8H6BrN3O2
solvent | methanol | 150 ml | CO | CH4O
product | 2-bromo-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylic acid | 9.0 g | BrC1=NN2C(C=C(C=C2)C(=O)O)=N1 | C7H4BrN3O2
